US09169344B2
Powder Process for VCap/DMAPMA/HEMA Terpolymer
Five hundred grams (500 g) of de-ionized water was added to 1000 g of a 30% aqueous solution of a terpolymer of vinyl caprolactam (VCap), dimethylamino propyl methacrylamide (DMAPMA), and 2-hydroxyethyl methacrylate (HEMA). GMA (12 g) was added drop-wise with continuous stirring. The obtained solution was heated at 60° C. for one hour. The resulting product was freeze dried to render a solid, white powder. A representative structure for the polymeric reaction is presented below, wherein x+y+z+a=100:

reactant | vinyl caprolactam | C(=C)C1C(=O)NCCCC1 | C8H13NO
reactant | dimethylamino propyl methacrylamide | CN(C)CCCC=C(C(=O)N)C | C9H18N2O
reactant | 2-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
solvent | water | Five hundred grams | O | H2O
product | DMAPMA HEMA | CC(=C)C(=O)NCCCN(C)C.CC(=C)C(=O)OCCO | InChI=1S/C9H18N2O.C6H10O3/c1-8(2)9(12)10-6-5-7-11(3)4;1-5(2)6(8)9-4-3-7/h1,5-7H2,2-4H3,(H,10,12);7H,1,3-4H2,2H3
